US05952321
Step D: (S)-(-)-N-Carbobenzyloxy-N-methyl-4-amino-α-methylbenzylamine
α-A solution of (S)-(-)-N-carbobenzyloxy-N-methyl-methyl-4-nitrobenzylamine (6.6 gm, 21 imol) in 100% ethanol (100 mL) was cooled in an ice bath while a solution of stannous chloride dihydrate (14.2 gm, 63 mmol) in conc. hydrochloric acid (25 mL) was added. The reaction was allowed to warm to rt over 14 hrs and was then quenched into a solution of ice, 5N sodium hydroxide (100 mL) and ether and the pH adjusted to 9-10. The layers were separated and the ether layer was washed with brine. The aqueous layers were consecutively extracted with a second portion of ether and the pooled ether layers were dried over sodium sulfate and evaporated. The residue was partially purified by flash chromatography using 20-30% ethyl acetate/hexanes, then 5% methanol/30% ethyl acetate/65% hexanes to give 6.0 gm of impure title compound containing variable amounts of benzyloxycarbonylmethylamine.

reactant | (S)-(-)-N-carbobenzyloxy-N-methyl-methyl-4-nitrobenzylamine | 6.6 gm | C(=O)(OCC1=CC=CC=C1)N(C)[C@H](C1=CC=C(C=C1)[N+](=O)[O-])C | C17H18N2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 25 mL | Cl | ClH
product | (S)-(-)-N-Carbobenzyloxy-N-methyl-4-amino-α-methylbenzylamine | 6.0 gm | C(=O)(OCC1=CC=CC=C1)N(C)[C@H](C1=CC=C(C=C1)N)C | C17H20N2O2
